US08124639B2
To 6-{[(1-Methyl-1H-imidazole-4-carbonyl)-(3-trifluoromethoxy-benzyl)-amino]-methyl}-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester prepared above (7.74 gm, 15.65 mmol) was added 5 mL of saturated HCl in EtOAc at room temperature. The reaction stirred at room temperature for 4 hours. The mixture was concentrated under reduced pressure to yield 6.63 gm of 1-Methyl-1H-imidazole-4-carboxylic acid (3-aza-bicyclo[3.1.0]hex-6-ylmethyl)-(3-trifluoromethoxy-benzyl)-amide Hydrochloride.

reactant | 6-{[(1-Methyl-1H-imidazole-4-carbonyl)-(3-trifluoromethoxy-benzyl)-amino]-methyl}-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C2C1)CN(CC1=CC(=CC=C1)OC(F)(F)F)C(=O)C=1N=CN(C1)C | C24H29F3N4O4
reactant | HCl | 5 mL | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Methyl-1H-imidazole-4-carboxylic acid (3-aza-bicyclo[3.1.0]hex-6-ylmethyl)-(3-trifluoromethoxy-benzyl)-amide Hydrochloride | 6.63 gm | Cl.C12CNCC2C1CN(C(=O)C=1N=CN(C1)C)CC1=CC(=CC=C1)OC(F)(F)F | InChI=1S/C19H21F3N4O2.ClH/c1-25-10-17(24-11-25)18(27)26(9-16-14-6-23-7-15(14)16)8-12-3-2-4-13(5-12)28-19(20,21)22;/h2-5,10-11,14-16,23H,6-9H2,1H3;1H
